US07105671B2
A solution of 2(R)-(3-chloro-4-methylsulfanyl-phenyl)-3-(2-oxo-cyclopentyl)-propionic acid (683.2 mg, 2.18 mmol), formic acid (2.47 mL, 65.5 mmol), and water (0.41 mL) cooled to 0° C. was treated with a 30% aqueous hydrogen peroxide solution (1.11 mL, 10.9 mmol). The reaction was stirred at 0° C. for 1 h. At this time, the reaction was treated with a saturated aqueous sodium sulfite solution. The resulting solution was poured into water (50 mL) and was then extracted into methylene chloride (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2(R)-(3-chloro-4-methanesulfinyl-phenyl)-3-(2-oxo-cyclopentyl)-propionic acid (724 mg, 100%) as a white foam: EI-HRMS m/e calcd for C15H17ClO4S (M+Na)+ 351.0428, found 351.0433.

reactant | 2(R)-(3-chloro-4-methylsulfanyl-phenyl)-3-(2-oxo-cyclopentyl)-propionic acid | 2.18 mmol, 683.2 mg | ClC=1C=C(C=CC1SC)[C@H](C(=O)O)CC1C(CCC1)=O | C15H17ClO3S
reactant | formic acid | 65.5 mmol, 2.47 mL | C(=O)O | CH2O2
reactant | hydrogen peroxide | 10.9 mmol, 1.11 mL | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | water | 0.41 mL | O | H2O
product | 2(R)-(3-chloro-4-methanesulfinyl-phenyl)-3-(2-oxo-cyclopentyl)-propionic acid | 724 mg, 100% | ClC=1C=C(C=CC1S(=O)C)[C@H](C(=O)O)CC1C(CCC1)=O | C15H17ClO4S
